US08357693B2
To tert-butyl 5-(2-(3-(2-(2-(dimethylamino)ethylamino)-2-oxoethoxy)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.18 mmol) was added a solution of 1:1 TFA:CH2Cl2 (2 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and the crude product was purified by prep HPLC (method 10-35—90 mins) to afford 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-(2-(dimethylamino)ethyl)acetamide. (19 mg, 0.039 mmol, 22%).

reactant | tert-butyl 5-(2-(3-(2-(2-(dimethylamino)ethylamino)-2-oxoethoxy)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.18 mmol | CN(CCNC(COC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)=O)C | C32H35N7O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-(2-(dimethylamino)ethyl)acetamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)NCCN(C)C)C=CC1 | C27H27N7O2
